US04022778
1,2,3,4-Tetrahydro-2-dimethylaminopropyl-8-chloro-10-phenylpyrazino [1,2-a]indole-1-one
A solution of 4.5 grams (0.015 mole) 8-chloro-10-phenyl-1,2,3,4-tetrahydropyrazino[1,2-a]indole-1-one in 30 ml DMF, is added to a suspension of sodium hydride (1 gram of 50% dispersion, 0.02 mole) in 20 ml DMF. After stirring at 34°-40° C. for 20 minutes a solution of freshly distilled dimethylaminopropyl chloride (1.8 grams, 0.015 moles) in 5 ml DMF is added dropwise. Stirring is continued and the reaction mixture is heated at 50° C. for 8 hours. The mixture is cooled, and poured into cold water (300 ml). This is extracted 5 times with methylenedichloride. The extracts are washed well with saline. After drying the extract over sodium sulfate, the drying agent is filtered off and the filtrate is concentrated. The residue is diluted with ether. The product crystallizes out and is filtered off. Recrystallization from heptane gives 3.4 grams (62%) of above titled product, m.p. 151°-52° C.

reactant | 8-chloro-10-phenyl-1,2,3,4-tetrahydropyrazino[1,2-a]indole-1-one | 0.015 mole, 4.5 grams | ClC1=CC=2C(=C3N(C2C=C1)CCNC3=O)C3=CC=CC=C3 | C17H13ClN2O
reactant | sodium hydride | 0.02 mole, 1 gram | [H-].[Na+]
reactant | dimethylaminopropyl chloride | 0.015 moles, 1.8 grams | CN(C)CCCCl | C5H12ClN
reactant | water | 300 ml | O | H2O
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1,2,3,4-Tetrahydro-2-dimethylaminopropyl-8-chloro-10-phenylpyrazino [1,2-a]indole-1-one | CN(C(CN1C(C=2N(C=3C=CC(=CC3C2C2=CC=CC=C2)Cl)CC1)=O)C)C | C22H24ClN3O
